US06605610B1
A) 3-N-Benzyl-2,3,4,5-tetrahydro-1,5-methano-1H-3-benzazepine
A stream of ozone was bubbled through a solution of 4.00 g of benzonorbornadiene (1,4-dihydro-1,4-methanonaphthalene) (28.1 mmol, 1.0 equivalent) in 80 mL of methanol at −78° C. Once the solution developed a blue color, ozone generation was stopped after another few minutes and then oxygen was bubbled through for five minutes to dispel the blue color. Then the solution was purged with nitrogen for 20 to 40 minutes to deoxygenate the solution. To the cold solution was added 0.199 g of 5% platinum on carbon, 55% wet by weight, (.0281 mmol, 0.001 equivalent). The system was passivated with hydrogen, pressurized to 40 psi of hydrogen, and gradually warmed to room temperature. Once the ozonide was reduced completely (within 45-60 minutes), an additional 0.798 g of 5% platinum on carbon (0.112 mmol, 0.004 equivalent) was added to the reaction mixture at 0° C., followed by 3.07 mL of benzylamine (28.1 mmol, 1.0 equivalent) and 0.561 mL of 96% formic acid (14.0 mmol, 0.50 equivalent). The system was repressurized to 50 psi of hydrogen and allowed to warm to room temperature. After 4 hours, the reaction mixture was removed from the reactor and filtered through a pad of Celite, washing with 20 mL of methanol. This reaction mixture was used in the next step (Example 59B), but isolation of the intermediate was carried out as follows: the filtrate was concentrated in vacuo and partitioned between 40 mL of methylene chloride and 30 mL of a saturated aqueous solution of sodium carbonate; the aqueous layer was extracted with another 30 mL of methylene chloride; the combined organic layers were dried over anhydrous sodium sulfate and concentrated; the residue was dissolved in 10 mL of 9:1 hexane/ethyl acetate and passed through a plug of silica gel; and after concentrating the filtrate, the title compound was obtained as an oil (3.34 g, 48%): 1H NMR (400 MHz, CD3OD): δ 7.22-7.19 (m, 7H), 6.93 (d, J=8.0 Hz, 2H), 3.52 (s, 2H), 3.13-3.11 (m, 2H), 2.85 (d, J=9.5 Hz, 2H), 2.47 (d, J=9.5 Hz, 2H), 2,32-2,29 (m, 1H), 1.71 (d, J=10.0 Hz, 1H).

reactant | ozone | O=[O+][O-] | O3
reactant | benzonorbornadiene | 28.1 mmol, 4.00 g, 1.0 equivalent | C=12C3=C(C(=CC1)C2)C=CC=C3 | C11H8
reactant | benzylamine | 28.1 mmol, 3.07 mL, 1.0 equivalent | C(C1=CC=CC=C1)N | C7H9N
reactant | formic acid | 14.0 mmol, 0.561 mL, 0.50 equivalent | C(=O)O | CH2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 80 mL | CO | CH4O
catalyst | platinum on carbon | 0.112 mmol, 0.798 g, 0.004 equivalent | [Pt] | Pt
product | 3-N-Benzyl-2,3,4,5-tetrahydro-1,5-methano-1H-3-benzazepine | C(C1=CC=CC=C1)N1CC2C3=C(C(C1)C2)C=CC=C3 | C18H19N
